US05563141
1-Ethyl-7-[4-(4-pyridyl)piperazin-1-yl]-4-quinolon-3-ylcarboxylic acid
A mixture of 1-ethyl-7-chloro-4-quinolon-3-ylcarboxylic acid (182 mg) and 1-(4-pyridyl) piperazine (125 mg ) was heated to 200° C. for 20 minutes. The mixture was cooled and methanol (5 ml) was added. The resulting solid was filtered and washed with methanol (10 ml) to give the title compound (68 mg), as a solid: NMR (d6DMSO) δ1.4(t,3H), 3.75-3.85(m,4H), 3.9-4.0(m,4H), 4.55(q,2H), 6.9(d,1H), 7.2(d,2H), 7.3(dd,1H), 8.2(d,1H), 8.3(d,2H), 8.9(s,1H); m/e 379(M+H)+

reactant | 1-ethyl-7-chloro-4-quinolon-3-ylcarboxylic acid | 182 mg | C(C)N1C=C(C(C2=CC=C(C=C12)Cl)=O)C(=O)O | C12H10ClNO3
reactant | 1-(4-pyridyl) piperazine | 125 mg | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | methanol | 5 ml | CO | CH4O
product | 1-Ethyl-7-[4-(4-pyridyl)piperazin-1-yl]-4-quinolon-3-ylcarboxylic acid | 68 mg | C(C)N1C=C(C(C2=CC=C(C=C12)N1CCN(CC1)C1=CC=NC=C1)=O)C(=O)O | C21H22N4O3
